US07915271B2
Step C Methyl 2,2′-difluoro-5′-iodo-4′-methoxybiphenyl-4-carboxylate
methyl 2,2′-difluoro-4′-methoxybiphenyl-4-carboxylate (585 mg, 2.10 mmol), methanol (10 mL), iodide (534 mg, 2.10 mmol), silver sulfate (655 mg, 2.10 mmol) were stirred at room temperature. LCMS indicated formation of the desired compound. Reaction crude was worked up w/Na2HSO3 (aq., sat.). All volatiles were removed from the resulting mixture. The pot residue was worked up w/Na2SO4/EtOAc/filtration/concentration to afford a light brown solid. The crude solid was purified by flash chromatography (SiO2, Biotage 40+M cartridge). The column was eluted by a 0% to 20% EtOAc/hexanes mixture. 5 major fractions were spilled by accident. The remaining related fractions were pooled and concentrated in vacuo to afford the title compound. LCMS (ESI) calc.=403.97; found=404.92 (M+1)+.

reactant | methyl 2,2′-difluoro-4′-methoxybiphenyl-4-carboxylate | 2.10 mmol, 585 mg | FC1=C(C=CC(=C1)C(=O)OC)C1=C(C=C(C=C1)OC)F | C15H12F2O3
reactant | iodide | 2.10 mmol, 534 mg | [I-]
catalyst | silver sulfate | 2.10 mmol, 655 mg | S(=O)(=O)([O-])[O-].[Ag+2]
solvent | methanol | 10 mL | CO | CH4O
product | Methyl 2,2′-difluoro-5′-iodo-4′-methoxybiphenyl-4-carboxylate | FC1=C(C=CC(=C1)C(=O)OC)C1=C(C=C(C(=C1)I)OC)F | C15H11F2IO3
